US04906624
Step 3: Preparation of 4-(4-Fluorophenyl)-5-(3-hydroxy-2-propenyl)-2,6-bis(1-methylethyl)-N-propyl-3-pyridinecarboxamide
To a stirring solution of 4-(4-fluorophenyl)-5-(3-hydroxy-2-propenyl)-2,6-bis(1-methylethyl)-3-pyridinecarboxylic acid (4.0 g, 0.0112 mol) was added 1.51 g of 1-hydroxybenzotriazole (0.0112 mol) followed by 2.31 g of DCC (0.0112 mol). The resulting mixture was stirred 25 minutes, then 1.84 ml of n-propylamine (0.0224 mol) was added. The resulting mixture was stirred for 72 hrs and then was taken up in ethyl acetate (500 ml), filtered, washed with water (2×250 ml), washed with 30% saturated NaHCO3 (1×150 ml), washed with brine (1×150 ml), dried (MgSO4), concentrated under reduced pressure, and chromatographed on silica (1:1 hexane:ethyl acetate) to yield 1.65 g of the title compound.

reactant | 4-(4-fluorophenyl)-5-(3-hydroxy-2-propenyl)-2,6-bis(1-methylethyl)-3-pyridinecarboxylic acid | 0.0112 mol, 4.0 g | FC1=CC=C(C=C1)C1=C(C(=NC(=C1CC=CO)C(C)C)C(C)C)C(=O)O | C21H24FNO3
reactant | 1-hydroxybenzotriazole | 0.0112 mol, 1.51 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 0.0112 mol, 2.31 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | n-propylamine | 0.0224 mol, 1.84 ml | C(CC)N | C3H9N
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-Fluorophenyl)-5-(3-hydroxy-2-propenyl)-2,6-bis(1-methylethyl)-N-propyl-3-pyridinecarboxamide | 1.65 g | FC1=CC=C(C=C1)C1=C(C(=NC(=C1CC=CO)C(C)C)C(C)C)C(=O)NCCC | C24H31FN2O2
